US07977343B2
12.2 Under an argon atmosphere, 120 ml of DMF are added to 28.01 g of 1-tert-butyloxycarbonyl-(2R,4S)-4-hydroxyproline ethyl ester, 30.28 g of tert-butyldimethylchlorosilane and 16.41 g of imidazole. The mixture is stirred for a further 2 hours. MTB ether is added, and the mixture is subjected to conventional work-up. The residue is chromatographed on silica gel, giving 40.4 g of 1-tert-butyloxycarbonyl-(2R,4S)-4-(tert-butyldimethylsilyl-oxy)proline ethyl ester as an oil.

reactant | DMF | 120 ml | CN(C)C=O | C3H7NO
reactant | 1-tert-butyloxycarbonyl-(2R,4S)-4-hydroxyproline ethyl ester | 28.01 g | C(C)OC([C@@H]1N(C[C@H](C1)O)C(=O)OC(C)(C)C)=O | C12H21NO5
reactant | tert-butyldimethylchlorosilane | 30.28 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 16.41 g | N1C=NC=C1 | C3H4N2
solvent | ether | CCOCC | C4H10O
product | 1-tert-butyloxycarbonyl-(2R,4S)-4-(tert-butyldimethylsilyl-oxy)proline ethyl ester | 40.4 g | C(C)OC([C@@H]1N(C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OC(C)(C)C)=O | C18H35NO5Si
